US06291455B1
A mixture of 4-chloro-7-(3-morpholinopropoxy)quinazoline hydrochloride (238 mg, 0.69 mmol) and 4-chloro-2-fluoroaniline (145 mg, 1 mmol) in isopropanol (5 ml) was heated at reflux for 1 hour. The solvent was removed by evaporation and the residue partitioned between water and ethyl acetate and the aqueous layer adjusted to pH8 with sodium hydrogen carbonate. The organic layer was separated, washed with brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by flash chromatography eluting with methylene chloride/acetonitrile/methanol (60/30/10 followed by 60/20/20). The resulting semi-purified solid was repurified by chromatography on neutral alumina eluting with methylene chloridelmetlhanol (95/5). The resulting white solid was dissolved in methylene chloride and 4 M ethereal hydrogen chloride (0.5 ml) was added. The volatiles were removed by evaporation, and the residue triturated by the addition of methylene chloride followed by methanol and ether. The precipitated solid was collected by filtration and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)-7-(3-morpholinopropoxy)quinazoline hydrochloride (35 mg, 10%).

reactant | 4-chloro-7-(3-morpholinopropoxy)quinazoline hydrochloride | 0.69 mmol, 238 mg | Cl.ClC1=NC=NC2=CC(=CC=C12)OCCCN1CCOCC1
reactant | 4-chloro-2-fluoroaniline | 1 mmol, 145 mg | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | 4-(4-chloro-2-fluoroanilino)-7-(3-morpholinopropoxy)quinazoline hydrochloride | 35 mg, 10% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=CC=C23)OCCCN2CCOCC2)C=C1)F | InChI=1S/C21H22ClFN4O2.ClH/c22-15-2-5-19(18(23)12-15)26-21-17-4-3-16(13-20(17)24-14-25-21)29-9-1-6-27-7-10-28-11-8-27;/h2-5,12-14H,1,6-11H2,(H,24,25,26);1H
